US07582633B2
Step 2: (5-{2-[4-(5-Bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid
The title compound was prepared in a similar manner as that described for Example 3 (step 5) from ethyl (5-{2-[4-(5-bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate and aqueous NaOH.

reactant | ethyl (5-{2-[4-(5-bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate | BrC=1C=CC(=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)OCC)C1)F | C20H21BrFN7O3
reactant | NaOH | [OH-].[Na+]
product | (5-{2-[4-(5-Bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid | BrC=1C=CC(=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)O)C1)F | C18H17BrFN7O3
